US07919519B2
Benzofuran-5-yl(pyridin-2-yl)methanol
Under argon at −78° C., a mixture of 2-bromopyridine (1.11 g, 7.05 mmol) in THF (30 mL) was dropwise treated with n-BuLi (1.05 equiv. 2.7 mL of 2.5M BuLi in hexanes) over a period of 10 min, and stirred for 10 min. The resulting brown solution was treated dropwise with a solution of benzofuran-5-carbaldehyde (0.937 g, 6.41 mmol) in THF (10 mL) and continued to stir for 15 min at −78° C. The mixture was treated with MeOH (3 mL), followed by H2O (20 mL) and warmed to 4° C. The mixture was treated with EtOAc, the layers separated, and the aqueous layer extracted 1× with EtOAc. The combined organic layers were dried over MgSO4 and evaporated, which resulted in a dark yellow oil which was used without further purification.

reactant | 2-bromopyridine | 7.05 mmol, 1.11 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-BuLi | 2.5M, 2.7 mL, 1.05 equiv | [Li]CCCC
reactant | benzofuran-5-carbaldehyde | 6.41 mmol, 0.937 g | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
reactant | MeOH | 3 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 20 mL | O | H2O
product | Benzofuran-5-yl(pyridin-2-yl)methanol | O1C=CC2=C1C=CC(=C2)C(O)C2=NC=CC=C2 | C14H11NO2
